US04766133
64.8 g of 2-benzimidazolethiol are suspended in 400 ml of alcohol and treated with 95.9 g of 2-chloromethyl-4-methoxy-3.5-dimethylpyridine hyrochloride while cooling with ice. Thereafter, a solution of 34.5 g of sodium hydroxide in 1.5 l of water is added dropwise thereto, the mixture is left to boil at reflux overnight and subsequently evaporated to dryness in vacuo. The residue is dissolved in 2.0 l of methylene chloride. The solution is washed firstly with 600 ml of 1.5N sodium hydroxide solution and then 3× with 2.2 l of water, dried over sodium sulphate and evaporated in vacuo. The crude product is purified on 1300 g of silica gel with ethyl acetate/methylene chloride (1:1) as the elution agent. Crystallization from methylene chloride/petroleum ether gives 2-[[(4-methoxy-3,5 -dimethyl-2-pyridyl)methyl]thio]benzimidazole of melting point 129°-131°.

reactant | 2-benzimidazolethiol | 64.8 g | N1=C(NC2=C1C=CC=C2)S | C7H6N2S
reactant | 2-chloromethyl-4-methoxy-3.5-dimethylpyridine hyrochloride | 95.9 g | Cl.ClCC1=NC=C(C(=C1C)OC)C
reactant | sodium hydroxide | 34.5 g | [OH-].[Na+]
solvent | water | 1.5 l | O | H2O
product | 2-[[(4-methoxy-3,5 -dimethyl-2-pyridyl)methyl]thio]benzimidazole | COC1=C(C(=NC=C1C)CSC=1NC2=C(N1)C=CC=C2)C | C16H17N3OS
